US04140775
In the manner given in Example 1C, 1-(p-fluorophenyl)-4-[1-(4-aminophenyl)propyl]piperazine and 4-chloro-7-(trifluoromethyl)quinoline are reacted together at reflux to give 4-[[4-[1-[4-(p-fluorophenyl)-1-piperazinyl]propyl]phenyl]amino]-7-(trifluoromethyl)quinoline.

reactant | 1-(p-fluorophenyl)-4-[1-(4-aminophenyl)propyl]piperazine | FC1=CC=C(C=C1)N1CCN(CC1)C(CC)C1=CC=C(C=C1)N | C19H24FN3
reactant | 4-chloro-7-(trifluoromethyl)quinoline | ClC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C10H5ClF3N
product | 4-[[4-[1-[4-(p-fluorophenyl)-1-piperazinyl]propyl]phenyl]amino]-7-(trifluoromethyl)quinoline | FC1=CC=C(C=C1)N1CCN(CC1)C(CC)C1=CC=C(C=C1)NC1=CC=NC2=CC(=CC=C12)C(F)(F)F | C29H28F4N4
